US07906517B2
(2-Benzyloxy-5-trifluoromethyl-benzyl)-(3,5-bis-trifluoromethyl-benzyl)-(5-morpholin-4-yl-pyrimidin-2-yl)-amine (2.46 g) is dissolved in ethanol (35 ml), and thereto is added 10% palladium-carbon (750 mg) and the mixture is stirred under hydrogen atmosphere at room temperature for 1 hour and 30 minutes. The catalyst is removed by filtration, and the filtrate is concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (hexane:ethyl acetate=4:1→3:2) to give 2-{[(3,5-bis-trifluoromethyl-benzyl)-(5-morpholin-4-yl-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-phenol (1.53 g). MS (m/z): 581 [M+H]+

reactant | (2-Benzyloxy-5-trifluoromethyl-benzyl)-(3,5-bis-trifluoromethyl-benzyl)-(5-morpholin-4-yl-pyrimidin-2-yl)-amine | 2.46 g | C(C1=CC=CC=C1)OC1=C(CN(C2=NC=C(C=N2)N2CCOCC2)CC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)C=C(C=C1)C(F)(F)F | C32H27F9N4O2
solvent | ethanol | 35 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 750 mg | [C].[Pd]
product | 2-{[(3,5-bis-trifluoromethyl-benzyl)-(5-morpholin-4-yl-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-phenol | 1.53 g | FC(C=1C=C(CN(C2=NC=C(C=N2)N2CCOCC2)CC2=C(C=CC(=C2)C(F)(F)F)O)C=C(C1)C(F)(F)F)(F)F | C25H21F9N4O2
